US08258136B2
0.30 g of 5-(4-chlorophenyl)-4-(6-chloro-4-methyl-3-pyridazinyl)-6-met hyl-2H-pyridazin-3-one and 5 g of phosphorus oxychloride were mixed. The mixture was stirred for 1.5 hours on an oil bath of 110° C. The reaction mixture was allowed to cool to room temperature, the, concentrated under reduced pressure. To the resultant residue were added ethyl acetate and ice-cooled sodium bicarbonate water. The mixture was stirred for about 5 minutes at room temperature, then, liquid-separated. The organic layer was washed with brine, and dried over anhydrous magnesium sulfate, then, concentrated under reduced pressure. 0.31 g of the resultant residue was subjected to silica gel column chromatography, to obtain 0.26 g of 3-chloro-5-(4-chlorophenyl)-4-(6-chloro-4-methyl-3-pyridazin yl)-6-methylpyridazine (hereinafter, described as compound (13) of the present invention(13).).

reactant | 5-(4-chlorophenyl)-4-(6-chloro-4-methyl-3-pyridazinyl)-6-met hyl-2H-pyridazin-3-one | 0.30 g | ClC1=CC=C(C=C1)C1=C(C(NN=C1C)=O)C=1N=NC(=CC1C)Cl | C16H12Cl2N4O
reactant | phosphorus oxychloride | 5 g | P(=O)(Cl)(Cl)Cl | Cl3OP
product | 3-chloro-5-(4-chlorophenyl)-4-(6-chloro-4-methyl-3-pyridazin yl)-6-methylpyridazine | 0.26 g | ClC=1N=NC(=C(C1C=1N=NC(=CC1C)Cl)C1=CC=C(C=C1)Cl)C | C16H11Cl3N4
